US07709500B2
Step 1: 4-(3,4-dichlorophenoxy)piperidine
4-Hydroxypiperidine (50 g, 494 mmol) was added portionwise to a stirred suspension of potassium tert-butoxide (110.9 g, 990 mmol) in THF (900 ml) at room temperature and under nitrogen. The mixture was heated at reflux and 1,2-dichloro-4-fluorobenzene (98 g, 594 mmol) added dropwise over 30 minutes. The mixture was sired at reflux for another 1 hour then cooled down to room temperature, diluted with ethyl acetate (500 ml) and washed with water (500 ml). The organic phase was diluted further with ethyl acetate (500 ml) and extracted with 1M hydrochloric acid (200 ml), The aqueous extract was adjusted to pH>10 by addition of a solution of sodium hydroxide and extracted twice with tert-butylmethyl ether (750 ml). The organic extracts were dried over magnesium sulfate, filtered and concentrated under vacuum to yield the sub-title compound as a dark oil which was used as such in the next step.

reactant | 4-Hydroxypiperidine | 494 mmol, 50 g | OC1CCNCC1 | C5H11NO
reactant | potassium tert-butoxide | 990 mmol, 110.9 g | CC(C)([O-])C.[K+]
reactant | 1,2-dichloro-4-fluorobenzene | 594 mmol, 98 g | ClC1=C(C=C(C=C1)F)Cl | C6H3Cl2F
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3,4-dichlorophenoxy)piperidine | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
